US09084794B2
d) 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl acetate
A solution of 2-bromo-2-(4-bromo-2-fluorophenyl)ethyl acetate (0.971 mmol) in N,N-dimethylformamide (5 mL) was treated with potassium carbonate (2.91 mmol) and 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride (1.019 mmol). The reaction was allowed to stir at room temperature overnight. The reaction solution was then diluted with water (50 mL) and was extracted four times with ethyl acetate. The combined organic layer was washed four times with water, twice with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound as an oil (385 mg, 76% yield). MS(ES)+ m/e 469.1/471.2 [M+H]+ (bromide isotope pattern).

reactant | 2-bromo-2-(4-bromo-2-fluorophenyl)ethyl acetate | 0.971 mmol | C(C)(=O)OCC(C1=C(C=C(C=C1)Br)F)Br | C10H9Br2FO2
reactant | potassium carbonate | 2.91 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | 1.019 mmol | Cl.C1(CC1)N1C(COC2(C1)CCNCC2)=O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl acetate | 385 mg, 76% yield | C(C)(=O)OCC(N1CCC2(CN(C(CO2)=O)C2CC2)CC1)C1=C(C=C(C=C1)Br)F | C21H26BrFN2O4
